US04122201
To a mixture of 39.55 g. (0.25 m.) of n-butyric anhydride with 1 ml. of concentrated sulfuric acid at 10°-20° C. is added slowly 7.3 g. (0.05 m.) of acetonedicarboxylic acid and the resulting mixture is heated on a steam bath at 90°-95° C. for 1 hour. The reaction mixture is poured into ice-water, the solid is filtered and recrystallized from methanol to furnish 3,5-bis(butyryl)-4,6-dihydroxy-2H-pyran-2-one, m.p. 80°-82° C.

reactant | n-butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetonedicarboxylic acid | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
product | 3,5-bis(butyryl)-4,6-dihydroxy-2H-pyran-2-one | C(CCC)(=O)C=1C(OC(=C(C1O)C(CCC)=O)O)=O | C13H16O6
